* Z:\home\bean\RadioNotes\10_meter_amplifier_filter.asc
C1 N004 N003 30p
C2 N004 0 270p
L1 N004 0 100n
C3 N005 N004 10p
C4 N005 0 270p
L2 N005 0 100n
C5 N006 N005 30p
V1 N003 0 PULSE(0 3.3 0 1n 1n 17.81n 35.62n)
Q1 N001 N002 N007 0 2N3904
Q2 N007 N008 N009 0 2N3906
R1 N007 0 75
V3 N001 0 12
D1 N009 0 D
D2 N006 N008 D
D3 N002 N006 D
R2 N001 N002 600
R3 N008 0 600
.model D D
.lib C:\users\bean\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\users\bean\AppData\Local\LTspice\lib\cmp\standard.bjt
.tran 0 20u 9u 100p
.backanno
.end
