* Z:\home\bean\RadioNotes\class_e_10mhz.asc
Vbattery N001 0 12
Vgen N009 0 PULSE(0 3.3 0 1n 1n 12.81n 35.62n)
RGen N010 N009 10
L1 N001 N002 220n
C1 N002 0 183.771pF
C2 N003 N002 184.159pF
L2 N003 N004 219.568nH
L3 N004 N005 118.359nH
C3 N005 0 248.551pF
RLoad NC_01 0 75
C4 N006 N005 30p
C5 N006 0 270p
L4 N006 0 100n
C6 N007 N006 10p
C7 N007 0 270p
L5 N007 0 100n
C8 N008 N007 30p
R1 N008 0 75
XU1 N002 N010 0 SPP21N50C3_L1
.model MySwitch SW(Ron= .0003321797 Roff=10000 Vt=3.5 Vh=0)
.tran 0 35.62u 7.124u 18.1p startup
* ClassE - www.TonneSoftware.com
* L total = 337.927nH
.model arf448 NMOS (LEVEL=3 VMAX=1.04MEG theta=47.4M ETA=152U VTO=3.8 KP=10.5)
.lib Infineon - Simulation Model - PSpice - CoolMOS - C3 - 500V.lib
.backanno
.end
