* Z:\home\bean\RadioNotes\class_e_10mhz_optimized_ideal_components.asc
Vbattery N001 0 12
Vgen N005 0 PULSE(0 3.3 0 1n 1n 12.81n 35.62n)
RGen N006 N005 10
L1 N001 N002 100µ
S1 0 N002 N006 0 MySwitch
C1 N002 0 170pF
C2 N003 N002 115pF
L2 N003 N004 373.89nH
R1 N004 0 8.25
.model MySwitch SW(Ron= .0003250389 Roff=10000 Vt=2.5 Vh=0)
.tran 0 40u 39u 0.1n startup
* ClassE - www.TonneSoftware.com
* L total = 494.303nH
.backanno
.end
