* Z:\home\bean\RadioNotes\class_e_10mhz_optimized_real_components.asc
Vbattery N001 0 12
Vgen N005 0 PULSE(0 12 0 0n 0n 12.81n 35.62n) Rser=25
L1 N001 N002 100µ
C1 N002 0 150pF
C2 N003 N002 115pF
L2 N003 N004 373.89nH
R1 N004 0 8.25
XU1 N002 N005 0 SPP21N50C3_L1
.model MySwitch SW(Ron= .0003250389 Roff=10000 Vt=2.5 Vh=0)
.tran 0 20u 19u 0.05n startup
* ClassE - www.TonneSoftware.com
* L total = 494.303nH
.lib Infineon - Simulation Model - PSpice - CoolMOS - C3 - 500V.lib
.backanno
.end
