* Z:\home\bean\RadioNotes\class_e_10mhz_orig_opt2.asc
Vbattery N001 0 12
Vgen N005 0 PULSE(0 12 0 0n 0n 12.81n 35.62n)
RGen N006 N005 10
L1 N001 N002 3.7389µH
S1 0 N002 N006 0 MySwitch
C1 N002 0 180pF
C2 N003 N002 97.7076pF
L2 N003 N004 373.89nH
RLoad N004 0 5.65
.model MySwitch SW(Ron= .0003250389 Roff=10000 Vt=3.5 Vh=0)
.tran 0 30u 29u 10p startup
* ClassE - www.TonneSoftware.com
.backanno
.end
